US07053060B2
To a suspension of 2,4-dihydroxybenzaldehyde (0.83 g) and cesium carbonate (1.7 g) in acetonitrile (30 mL) was added chloromethyl methyl ether (0.55 mL), and the mixture was stirred at room temperature for 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gal (eluent: hexane/ethyl acetate=4/1) to give 2-hydroxy-4-(methoxymethyloxy)benzaldehyde (0.84 g).

reactant | 2,4-dihydroxybenzaldehyde | 0.83 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | cesium carbonate | 1.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloromethyl methyl ether | 0.55 mL | COCCl | C2H5ClO
reactant | Water | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-hydroxy-4-(methoxymethyloxy)benzaldehyde | 0.84 g | OC1=C(C=O)C=CC(=C1)OCOC | C9H10O4
